US06166064
5-Fluoro-2,3-dihydro-1H-indole
A solution of 6.8 grams (0.05 moles) of 5-fluoro-1H-indole in 50 ml of ether was cooled to 0° C. under nitrogen. 507 ml of a 0.15M solution of zinc borohydride in ether was added dropwise. The reaction was allowed to stir for 48 hours. The reaction was quenched with dilute hydrochloric acid. The pH was adjusted to 8.0 with dilute sodium hydroxide. The ether layer was separated, dried and evaporated to give 7 grams of the titled compound.

reactant | 5-fluoro-1H-indole | 0.05 moles, 6.8 grams | FC=1C=C2C=CNC2=CC1 | C8H6FN
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | zinc borohydride | [BH4-].[Zn+2].[BH4-]
product | 5-Fluoro-2,3-dihydro-1H-indole | 7 grams | FC=1C=C2CCNC2=CC1 | C8H8FN
